US03957783
To a solution of 26.0 g of 2-(N-methylacetylamino)-3-(o-chlorobenzoyl)-5-ethylthiophene in 520 ml of ethanol, is added 5.85 g of potassium hydroxide in 164 ml of water. The mixture is heated at 95°C for 1 hour, then evaporated under reduced pressure to a residue. Water is added to the residue and extracted with dichloromethane. The dichloromethane extracts are washed with water, dried over sodium sulfate, then evaporated under reduced pressure to give crystals, which are chloromatographed on silica gel using chloroform as an eluent to give 15.26 g of 2-(N-methylamino)-3-(o-chlorobenzoyl)-5-ethylthiophene as crystals having a melting point of 100° - 102°C (after recrystallization from ether); yield 67.5%.

reactant | 2-(N-methylacetylamino)-3-(o-chlorobenzoyl)-5-ethylthiophene | 26.0 g | CCC(=O)NC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C16H16ClNO2S
reactant | potassium hydroxide | 5.85 g | [OH-].[K+]
solvent | ethanol | 520 ml | C(C)O | C2H6O
solvent | water | 164 ml | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-methylamino)-3-(o-chlorobenzoyl)-5-ethylthiophene | 15.26 g, yield 67.5% | CNC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C14H14ClNOS
